US04891358
Dipeptide Boc-Arg(Tos)-Ile-OH: DIEA (19 mL, 106.5 mmol) and HOBt (5.08 g, 37.63 mmol) were added at room temperature to a solution of Boc-Arg(Tos)-OH (16.13 g, 37.64 mmol) and TFA.H-Ile-OFm (15 g, 35.5 mmol) in anhydrous DMF (100 mL). The resulting mixture was diluted with CH2Cl2 (300 mL) and cooled to 0° C. A solution of DCC (7.76 g) in 30 mL of CH2Cl2 was added to the cooled mixture. The mixture was stirred for 18 h while the temperature of the mixture gradually came to room temperature. The mixture was filtered. The filtrate was concentrated under reduced pressure. The residual oil was dissolved in EtOAc. The solution was washed with H2O, 1N HCl, 5% aqueous NaHCO3 and H2O, dried (Na2SO4 /MgSO4), and concentrated to yield Boc-Arg(Tos)-Ile-OFm as a white solid (22.42 g). The latter compound (22.0 g) was dissolved in DMF (200 mL). Piperidine (40 mL) was added dropwise to the solution. The reaction mixture was stirred at room temperature for 2 h and thereafter concentrated to dryness under reduced pressure. The residue was dissolved in EtOAc. The solution was washed with aqueous citric acid solution (pH 4). The aqueous phase was extracted with fresh EtOAc. The combined EtOAc solutions were washed with 1N HCl and H2O, dried (Na2SO4 /MgSO4), and concentrated to dryness. The residue was rinsed with hexane and then dissolved in warm EtOAc. After filtration to remove insoluble material, the EtOAc solution was diluted with hexane. The resulting precipitate was collected to give the dipeptide (17.6 g).

reactant | DIEA | 106.5 mmol, 19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 37.63 mmol, 5.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Arg(Tos)-OH | 37.64 mmol, 16.13 g | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H-Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | DCC | 7.76 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Boc-Arg(Tos)-Ile | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C24H39N5O7S
